US08791132B2
To a solution of 8-chloro-2,3-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (500 mg, 2.13 mmol) in 4 mL of DMF was added sodium hydride (256 mg, 6.40 mmol) at 0° C., and stirred for 10 min. 3-(2-methyloxiran-2-yl)pyridine (432 mg, 3.20 mmol) was added and the mixture was stirred at RT for 12 h. The reaction was monitored by TLC and LCMS. The reaction mixture was poured into ice cold water and extracted with EtOAc (2×50 mL). The combined organic layer was washed with water (5×25 mL), dried over anhydrous sodium sulfate, concentrated to obtain the crude product, which was crystallized in n-hexane to obtain 350 mg of 1-(8-chloro-2,3-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.72 (s, 1H), 8.47 (d, 1H), 7.52 (d, 1H), 7.23 (s, 1H), 6.94 (m, 3H), 4.10 (dd, 2H), 3.65 (m, 1H), 3.40 (m, 1H), 2.86 (m, 2H), 2.38 (s, 3H), 2.36 (m, 1H), 1.62 (s, 3H), 1.07 (d, 3H). Separation by chiral HPLC provided diastereomers II-147a-b.

reactant | 8-chloro-2,3-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.13 mmol, 500 mg | ClC1=CC=2C3=C(NC2C=C1)CC(N(C3)C)C | C13H15ClN2
reactant | sodium hydride | 6.40 mmol, 256 mg | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 3.20 mmol, 432 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(8-chloro-2,3-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol | 350 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C=1C=NC=CC1)CC(N(C3)C)C | C21H24ClN3O
